US09302991B2
<Step-2>:(R)-2-methyl-N-(1-(4-(2,2,2-trifluoroethoxy)phenyl)ethyl)propane-2-sulfinamide (single diastereomer)
The title compound is prepared in 76% yield (0.73 g, colorless oil) from 1-(4-(2,2,2-trifluoroethoxy)phenyl)ethanone (0.65 g, 2.99 mmol, Step-1) and (R)-2-methylpropane-2-sulfinamide by the similar manner in Step-4 of Amine-1.

reactant | 1-(4-(2,2,2-trifluoroethoxy)phenyl)ethanone | 2.99 mmol, 0.65 g | FC(COC1=CC=C(C=C1)C(C)=O)(F)F | C10H9F3O2
reactant | (R)-2-methylpropane-2-sulfinamide | CC(C)(C)[S@@](=O)N | C4H11NOS
product | (R)-2-methyl-N-(1-(4-(2,2,2-trifluoroethoxy)phenyl)ethyl)propane-2-sulfinamide | 76% yield | CC(C)(C)[S@@](=O)NC(C)C1=CC=C(C=C1)OCC(F)(F)F | C14H20F3NO2S
